US06355642B1
2a-[4-(4-Methoxy-4-phenyl-piperidyl)butyl]-1-methyl-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
1-t-Butoxycarbonyl-4-methoxy-4-phenyl-piperidine (510 mg, 1.7 mmol) was dissolved in dichloromethane (2 ml). Thereto was added trifluoroacetic acid (4 ml), and the resulting solution was stirred at a room temperature for 30 minutes. The reaction solution was diluted with ethyl acetate, washed with sodium hydroxide aqueous solution (1 N) and dried with anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure, and the thus obtained material was dissolved in anhydrous N,N-dimethylformamide (2 ml). Then the resulting solution was mixed with 1-methyl-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H) -one (450 mg, 1.4 mmol) and potassium carbonate (290 mg, 2.1 mmol) and stirred at 60° C. for 3 hours. The reaction solution was mixed with ethyl acetate and water, and the reaction product was extracted with ethyl acetate, washed with saturated brine and dried with anhydrous sodium sulfate. Then the compound obtained by the evaporation of the solvent under a reduced pressure was separated and purified by a silica gel column chromatography to obtain 79 mg of the title compound (0.31 mmol, 18% in yield).

reactant | 1-t-Butoxycarbonyl-4-methoxy-4-phenyl-piperidine | 1.7 mmol, 510 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)OC | C17H25NO3
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-methyl-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H) -one | 1.4 mmol, 450 mg | CN1C(C2(C=3C(=CC=CC13)CCC2)CCCCBr)=O | C16H20BrNO
reactant | potassium carbonate | 2.1 mmol, 290 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2a-[4-(4-Methoxy-4-phenyl-piperidyl)butyl]-1-methyl-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 0.31 mmol, 79 mg, 18% | COC1(CCN(CC1)CCCCC12C(N(C=3C=CC=C(C13)CCC2)C)=O)C2=CC=CC=C2 | C28H36N2O2
